US05972946
To a mixture of N-(tert-butoxycarbonyl)-N-methylglycine (10 g), 4-chloroaniline (8.8 g), benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (BOP reagent, 25.7 g) and methylene chloride (150 ml) is added dropwise triethylamine (5.9 g) while the temperature of the mixture is kept at 0-5° C. After addition, the mixture is stirred at room temperature for 8 hours, and thereto is added water. The methylene chloride layer is collected, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent; chloroform), and recrystallized from diethyl ether to give 2-[N'-(tert-butoxycarbonyl)-N'-methylamino]-N-(4-chlorophenyl)acetamide, m.p. 126-128° C.

reactant | N-(tert-butoxycarbonyl)-N-methylglycine | 10 g | C(C)(C)(C)OC(=O)N(CC(=O)O)C | C8H15NO4
reactant | 4-chloroaniline | 8.8 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 25.7 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | triethylamine | 5.9 g | C(C)N(CC)CC | C6H15N
product | 2-[N'-(tert-butoxycarbonyl)-N'-methylamino]-N-(4-chlorophenyl)acetamide | C(C)(C)(C)OC(=O)N(C)CC(=O)NC1=CC=C(C=C1)Cl | C14H19ClN2O3
